US08207164B2
o) [(2R,5R)-5-(2-Fluoro-5-nitro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
To a solution of (2R,5R)-5-(2-fluoro-5-nitro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (1.14 g, 3.4 mmol) in ACN (20 ml) was added Boc2O (0.891 g, 4.08 mmol) and NEt3 (0.72 ml, 5.1 mmol) and the mixture was stirred for 16 h at 25° C. The reaction mixture was evaporated and the residual oil purified by chromatography on silica gel (hexane-EtOAc 20:1 to 7:3) to give the title compound after crystallization from Et2O-hexane as beige crystals: TLC (hexane-EtOAc 3:1): Rf=0.37; HPLC RtH5=1.355 min; ESIMS: 436 [(M+H)+]; 1H NMR (360 MHz, CDCl3): δ 11.04 (br s, 1H), 8.24 (m, 2H), 7.30 (dd, 1H), 4.41 (dd, 1H), 4.11 (dd, 1H), 1.68 (s, 3H), 1.51 (s, 9H), 1.49 (s, 3H).

reactant | (2R,5R)-5-(2-fluoro-5-nitro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 3.4 mmol, 1.14 g | FC1=C(C=C(C=C1)[N+](=O)[O-])[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C | C13H13F4N3O3
reactant | Boc2O | 4.08 mmol, 0.891 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NEt3 | 5.1 mmol, 0.72 ml | CCN(CC)CC | C6H15N
solvent | ACN | 20 ml | C(C)#N | C2H3N
product | [(2R,5R)-5-(2-Fluoro-5-nitro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=C(C=CC(=C1)[N+](=O)[O-])F)(C(F)(F)F)C)=O | C18H21F4N3O5
